US08859606B2
5-Trifluoromethyl-1H-pyrazole-3-carboxylic acid ethyl ester, 76
To a solution of 2-bromo-3,3,3-trifluoro-1-propene (1 g, 5.716 mmol) in diethyl ether (2 ml) cooled with ice-bath under N2 atmosphere a solution of ethyl diazoacetate (1.06 ml, 8.574 mmol) in diethyl ether (3 ml) was added drop wise. The mixture was warmed to RT and then refluxed for 3 hours. The volatiles were removed under vacuum. Vacuum distillation provided the title compound.

reactant | 2-bromo-3,3,3-trifluoro-1-propene | 5.716 mmol, 1 g | BrC(=C)C(F)(F)F | C3H2BrF3
reactant | ethyl diazoacetate | 8.574 mmol, 1.06 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | 5-Trifluoromethyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NNC(=C1)C(F)(F)F | C7H7F3N2O2
